US04125729
Methyl α-(p-chlorophenoxy)-α-[p-(phenoxy)phenyl]acetate
Methyl α-bromo-α-[p-(phenoxy)phenyl]acetate (6.42 g) is reacted with 3.21 g of 4-chlorophenol in methanol as in Example 16 to afford a white solid, which is recrystallized from hexane to yield the product, mp 99°-102° C.

reactant | Methyl α-bromo-α-[p-(phenoxy)phenyl]acetate | 6.42 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=CC=C1 | C15H13BrO3
reactant | 4-chlorophenol | 3.21 g | ClC1=CC=C(C=C1)O | C6H5ClO
solvent | methanol | CO | CH4O
product | Methyl α-(p-chlorophenoxy)-α-[p-(phenoxy)phenyl]acetate | ClC1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)OC2=CC=CC=C2)C=C1 | C21H17ClO4
